US07666864B2
3-{3-Fluoro-4-[6-(2-methyl-6-nitro-2,3-dihydro-imidazo[2,1-b]oxazol-2-yl)-pyridin-3-yl]-phenyl}-5-hydroxymethyl-oxazolidin-2-one
The titled compound was prepared using the same procedure as described previously (see Example 2-1, Step 3), except that 5-(tert-Butyl-dimethyl-silanyloxymethyl)-3-[3-fluoro-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-oxazolidin-2-one, and 2-(5-Bromo-pyridin-2-yl)-2-methyl-6-nitro-2,3-dihydro-imidazo[2,1-b]oxazole were used as the starting materials, and TBAF deprotection required. The titled compound was obtained as slightly yellow solid (60 mg). ESI MS m/z 456 (M+H). 1H NMR (DMSO-d6) δ 8.79 (s, 1H), 8.14 (s, 1H), 8.05-8.12 (m, 1H), 7.75 (d, J=8.8 Hz, 1H), 7.63 (dd, J=5.2, 2.8 Hz, 1H), 7.48 (dd, J=8.8, 2.0 Hz, 1H), 5.24 (t, J=5.6 Hz, 1H), 4.85 (d, J=10.8 Hz, 1H), 4.69-4.77 (m, 1H), 4.49 (d, J=10.8 Hz, 1H), 4.12 (t, J=8.8 Hz, 1H), 3.86 (dd, J=8.8, 5.6 Hz, 1H), 3.64-3.72 (m, 1H), 3.50-3.59 (m, 1H), 1.97 (s, 3H).

reactant | 5-(tert-Butyl-dimethyl-silanyloxymethyl)-3-[3-fluoro-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-oxazolidin-2-one | C(C)(C)(C)[SiH2]OC(C1CN(C(O1)=O)C1=CC(=C(C=C1)B1OC(C(O1)(C)C)(C)C)F)(C)C | C22H35BFNO5Si
reactant | 2-(5-Bromo-pyridin-2-yl)-2-methyl-6-nitro-2,3-dihydro-imidazo[2,1-b]oxazole | BrC=1C=CC(=NC1)C1(CN2C(O1)=NC(=C2)[N+](=O)[O-])C | C11H9BrN4O3
reactant | TBAF | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
product | 3-{3-Fluoro-4-[6-(2-methyl-6-nitro-2,3-dihydro-imidazo[2,1-b]oxazol-2-yl)-pyridin-3-yl]-phenyl}-5-hydroxymethyl-oxazolidin-2-one | FC=1C=C(C=CC1C=1C=NC(=CC1)C1(CN2C(O1)=NC(=C2)[N+](=O)[O-])C)N2C(OC(C2)CO)=O | C21H18FN5O6
